US04123537
This compound is prepared exactly by the method described in Example 2 except that the 2-iodo-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol is replaced by 2-chloro-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol. Thereby is obtained the 2-chloro-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol dihydrochloride salt.

reactant | 2-iodo-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol | IC1=NC(=CC(=C1O)CN)C(C)(C)C | C10H15IN2O
reactant | 2-chloro-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol | ClC1=NC(=CC(=C1O)CN)C(C)(C)C | C10H15ClN2O
product | 2-chloro-4-aminomethyl-6-(1,1-dimethylethyl)-3-pyridinol dihydrochloride salt | Cl.Cl.ClC1=NC(=CC(=C1O)CN)C(C)(C)C | InChI=1S/C10H15ClN2O.2ClH/c1-10(2,3)7-4-6(5-12)8(14)9(11)13-7;;/h4,14H,5,12H2,1-3H3;2*1H
